US04698295
A solution of 13.7 g of 4-bromo-o-xylene in 50 ml of dry tetrahydrofuran is added dropwise to a suspension of magnesium filings (1.95 g) in 50 ml of dry tetrahydrofuran in the course of 1 hour. After refluxing in an argon atmosphere for 2 hours, the mixture is cooled to room temperature and 9.4 g of anhydrous copper(II) chloride are added in portions. The mixture is poured onto ice-water and extracted twice with 100 ml of diethyl ether each time. The organic phase is washed with 2 N hydrochloric acid and saturated sodium chloride solution. Drying with magnesium sulfate, evaporation and crystallisation of the residue from ethanol gives 2.9 g of biphenyl.

reactant | 4-bromo-o-xylene | 13.7 g | BrC=1C=C(C(=CC1)C)C | C8H9Br
reactant | magnesium | [Mg] | Mg
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | copper(II) chloride | 9.4 g | [Cu](Cl)Cl
product | biphenyl | 2.9 g | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
